US07935854B2
50.2 g (97.9 mmol) of 4-bromobenzyltriphenylphosphonium bromide and 21.7 g (118 mmol) of 4-bromobenzaldehyde were put into a 500 mL three-necked flask. Then, the atmosphere in the flask was substituted with nitrogen. Thereafter, 200 mL of tetrahydrofuran (abbreviation: THF) was added to the mixture. A suspension obtained by mixing 13.2 g (118 mmol) of potassium-tert-butoxide into 100 mL of THF was dropped to this mixture. Thereafter, the mixture was stirred at room temperature for 24 hours to be reacted. After the reaction, the reaction solution was washed with water, and then a precipitate was collected by suction filtration. Then, 14.0 g of objective (E)-4,4′-dibromostilbene was obtained as a white powdered solid in a yield of 42%. Further, the filtrate from which the precipitate was collected was extracted with ethylacetate and the extracted solution was dried over magnesium sulfate. After the drying, the mixture was subjected to suction filtration and the filtrate was condensed. The obtained residue was purified by silica gel column chromatography (developing solution: toluene). The obtained solution was condensed; then 14.8 g of (Z)-4,4′-dibromostilbene was obtained as a light yellow solid in a yield of 45%. Synthetic scheme of 4,4′-dibromostilbene is illustrated below (synthetic scheme a-2).

reactant | 4-bromobenzyltriphenylphosphonium bromide | 97.9 mmol, 50.2 g | [Br-].BrC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-bromobenzaldehyde | 118 mmol, 21.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | potassium-tert-butoxide | 118 mmol, 13.2 g | CC(C)([O-])C.[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (E)-4,4′-dibromostilbene | 14.0 g, yield of 42% | BrC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)Br | C14H10Br2
